US07816361B2
Step 1: Preparation of 3-furan-2-yl-2-methyl-3-oxo-propionic acid ethyl ester
In a flask were placed ethyl 3-(2-furyl)-3-oxopropanoate (0.5 g), iodomethane (0.14 ml), finely ground potassium carbonate (0.75 g) and acetone (5 ml). The mixture was stirred at reflux for 2 h. A further portion of iodomethane (0.9 mmol, 0.056 ml) and potassium carbonate (0.9 mmol, 0.12 g) were added and the mixture stirred at reflux for 1 h. The reaction mixture was filtered and concentrated under vacuum. Yield (0.5 g, 93%).

reactant | ethyl 3-(2-furyl)-3-oxopropanoate | 0.5 g | O1C(=CC=C1)C(CC(=O)OCC)=O | C9H10O4
reactant | iodomethane | 0.14 ml | IC | CH3I
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.9 mmol, 0.056 ml | IC | CH3I
reactant | potassium carbonate | 0.9 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-furan-2-yl-2-methyl-3-oxo-propionic acid ethyl ester | C(C)OC(C(C(=O)C=1OC=CC1)C)=O | C10H12O4
